US07446222B2
Ethyl 5-(acetylamino)-2-bromobenzoate
A mixture of 5-(acetylamino)-2-bromobenzoic acid (2.58 g, 10 mmol), 1-hydroxybenzotriazole (1.68 g, 11 mmol), dimethylaminopyridine (1.22 g, 10 mmol) and 1-(3-dimethylaminopropyl)-ethylcarbodiimide hydrochloride (2.20 g, 11.5 mmol) in dichloromethane/ethanol (5:1, 30 ml) was stirred at room temperature for 2 hours then washed with saturated sodium bicarbonate solution, dried (magnesium sulphate) and chromatographed on silica eluting with ethyl acetate/iso-hexane (2:3) to give 2.18 g of white solid.

reactant | 5-(acetylamino)-2-bromobenzoic acid | 10 mmol, 2.58 g | C(C)(=O)NC=1C=CC(=C(C(=O)O)C1)Br | C9H8BrNO3
reactant | 1-hydroxybenzotriazole | 11 mmol, 1.68 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | dimethylaminopyridine | 10 mmol, 1.22 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | 1-(3-dimethylaminopropyl)-ethylcarbodiimide hydrochloride | 11.5 mmol, 2.20 g | Cl.CN(CCCC(C)N=C=N)C
solvent | dichloromethane ethanol | 30 ml | ClCCl.C(C)O
product | Ethyl 5-(acetylamino)-2-bromobenzoate | 2.18 g | C(C)(=O)NC=1C=CC(=C(C(=O)OCC)C1)Br | C11H12BrNO3
